US07060844B2
To a stirred suspension of 3-[5-(3-hydroxy-propyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one (440 mg, 1.43 mmol) and triethylamine (289 mg, 2.86 mmol) in THF (7 ml), was added methanesulfonyl chloride (327 mg, 2.86 mmol). The mixture was stirred for 20 minutes and poured into an ice water (150 ml, containing 0.5 ml of AcOH). The solid was filtered, washed with water and dried under vacuum to afford a crude product. The crude product was purified by silica gel column chromatography, eluted with 5% MeOH in CHCl3, to give methanesulfonic acid 3-[1-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-propyl ester as a yellow solid (437 mg, 79%).

reactant | 3-[5-(3-hydroxy-propyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 1.43 mmol, 440 mg | OCCCC=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O | C19H17NO3
reactant | triethylamine | 2.86 mmol, 289 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.86 mmol, 327 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | methanesulfonic acid 3-[1-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-propyl ester | 437 mg, 79% | O=C1NC2=CC=CC=C2C1=C1OCC2=CC(=CC=C12)CCCOS(=O)(=O)C | C20H19NO5S
